US06294547B1
Synthesis of 10-chloro-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine
2-Benzyl-10-chloro-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine (1.54 g, 5 mmol) was dissolved in methylene chloride, followed by adding thereto 1-chloroethyl chloroformate (0.81 ml, 7.5 mmol) under ice-cooling, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated and methanol (20 ml) was added to the residue, and the resulting mixture was heated under reflux at 80° C. for 1 hour. The reaction mixture was concentrated and a 1N-aqueous potassium hydroxide solution was added thereto, followed by extraction with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure, and the resulting residue was purified by suspension in diethyl ether/hexane to obtain the desired compound (656.4 mg, 60%) as a light-yellowish-white substance.

reactant | 2-Benzyl-10-chloro-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine | 5 mmol, 1.54 g | C(C1=CC=CC=C1)N1CC=2C(=C3C(=NC2CC1)C=CC=C3)Cl | C19H17ClN2
reactant | 1-chloroethyl chloroformate | 7.5 mmol, 0.81 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 10-chloro-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine | 656.4 mg, 60% | ClC1=C2C(=NC=3CCNCC13)C=CC=C2 | C12H11ClN2
